US06670373B1
N-(3,4,5-Trimethoxyphenyl)-3-(5-methyl-3-(2-fluoro-4-bromo-phenyl)isoxazol-4-oyl)aminophenyl Acetamide
In a fashion similar to that described for preparation 35, 4-carboxy-5-methyl-3-(2-fluoro-4-bromophenyl)isoxazole (119 mg, 0.40 mmol), oxalyl chloride (0.070 ml, 0.80 mmol), dimethylformamide (0.010 ml), dichloromethane (5 ml), 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide (110 mg, 0.35 mmol), triethylamine (0.111 ml, 0.80 mmol), DMAP (5 mg), dimethylformamide (1 ml), dichloromethane (5 ml) gave the title compound (138 mg, 66%) after column chromatography (silica gel, hexanes/ethyl acetate gradient).

reactant | 4-carboxy-5-methyl-3-(2-fluoro-4-bromophenyl)isoxazole | 0.40 mmol, 119 mg | C(=O)(O)C=1C(=NOC1C)C1=C(C=C(C=C1)Br)F | C11H7BrFNO3
reactant | oxalyl chloride | 0.80 mmol, 0.070 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(3-aminophenyl)-N-(3,4,5-trimethoxyphenyl)acetamide | 0.35 mmol, 110 mg | NC=1C=C(C=CC1)CC(=O)NC1=CC(=C(C(=C1)OC)OC)OC | C17H20N2O4
reactant | triethylamine | 0.80 mmol, 0.111 ml | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.010 ml | CN(C=O)C | C3H7NO
product | N-(3,4,5-Trimethoxyphenyl)-3-(5-methyl-3-(2-fluoro-4-bromo-phenyl)isoxazol-4-oyl)aminophenyl Acetamide | 138 mg, 66% | COC=1C=C(C=C(C1OC)OC)NC(CC1=CC(=CC=C1)NC(=O)C=1C(=NOC1C)C1=C(C=C(C=C1)Br)F)=O | C28H25BrFN3O6
